US08563575B2
Trifluoroacetic anhydride (3.92 mL) was added to a suspension of 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (4 g) and urea hydrogen peroxide (2.74 g) in EtOAc (20 mL) at 0° C. The mixture was stirred at room temperature under a dry atmosphere (CaCl2 tube) overnight. The mixture was neutralized with sat. NaHCO3 at 0° C. and extracted with EtOAc. The organic layer was separated, washed with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 0%-100% EtOAc in hexane) to give 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one 4-oxide (250 mg) as colorless crystals.

reactant | Trifluoroacetic anhydride | 3.92 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 4 g | C(C)N1C(N(C2=NC=CC(=C21)C)C2=CC=C(C=C2)O[Si](C(C)C)(C(C)C)C(C)C)=O | C24H35N3O2Si
reactant | urea hydrogen peroxide | 2.74 g | OO.NC(=O)N
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one 4-oxide | 250 mg | C(C)N1C(N(C2=[N+](C=CC(=C21)C)[O-])C2=CC=C(C=C2)O[Si](C(C)C)(C(C)C)C(C)C)=O | C24H35N3O3Si
